US05945434
2-(1-n-Butyl-4-piperidyl)ethanol
A suspension of lithium aluminum hydride (0.96 g) in THF (90 ml) was ice-cooled, to which was added dropwise a solution of ethyl 1-n-butyl-4-piperidylideneacetate (3.40 g) obtained in Preparation Example 11 in THF (60 ml) over a period of 10 minutes with stirring. The mixture was stirred under ice-cooling for 10 minutes, and then at room temperature for further 2 hours. To the reaction solution were successively added water (4 ml), a 15% aqueous solution of sodium hydroxide (4 ml), water (12 ml), and anhydrous magnesium sulfate, and the mixture was stirred at room temperature for 30 minutes. The reaction solution was filtered off with Celite, and the solvent was distilled off under reduced pressure. To a solution of the residue in ethanol (150 ml) was added platinum (IV) oxide (0.50 g), and the mixture was shaken at room temperature under hydrogen atmosphere at 2 kg/cm2 for 11 hours. The reaction solution was filtered off with Celite, and the solvent was distilled off under reduced pressure to give the title compound (2.76 g) as a yellow oily substance. This compound was used for the subsequent reaction without purification.

reactant | lithium aluminum hydride | 0.96 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 1-n-butyl-4-piperidylideneacetate | 3.40 g | C(CCC)N1CCC(CC1)=CC(=O)OCC | C13H23NO2
reactant | sodium hydroxide | 4 ml | [OH-].[Na+]
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | THF | 90 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | water | 12 ml | O | H2O
solvent | water | 4 ml | O | H2O
product | 2-(1-n-Butyl-4-piperidyl)ethanol | 2.76 g | C(CCC)N1CCC(CC1)CCO | C11H23NO
